US04022794
Preparation of Ethyl 7-[3-(3-Hydroxy-4-propoxybutyl)-1,4-dioxo-2-thiazolidinyl]heptanoate
A solution of diazoethane (approximately 3.4 g., 0.06 mole) in ether (100 ml.) is slowly added to a solution of 7-[3-(3-hydroxy-4-propoxybutyl)-1,4-dioxo-2-thiazolidinyl]heptanoic acid (11.3 g., 0.03 mole) in ether (50 ml.) with stirring and cooling (0° to 5° C.). The resulting solution is allowed to warm to and stand at room temperature for 4 hours. After destroying excess diazoethane with acetic acid, the reaction solution is washed with 5% sodium bicarbonate solution and water, dried over sodium sulfate, and filtered. In vacuo evaporation of the filtrate leaves the title compound as an essentially colorless, viscous oil.

reactant | diazoethane | 0.06 mole, approximately 3.4 g | [N+](=[N-])=CC | C2H4N2
reactant | 7-[3-(3-hydroxy-4-propoxybutyl)-1,4-dioxo-2-thiazolidinyl]heptanoic acid | 0.03 mole, 11.3 g | OC(CCN1C(S(CC1=O)=O)CCCCCCC(=O)O)COCCC | C17H31NO6S
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | Ethyl 7-[3-(3-Hydroxy-4-propoxybutyl)-1,4-dioxo-2-thiazolidinyl]heptanoate | OC(CCN1C(S(CC1=O)=O)CCCCCCC(=O)OCC)COCCC | C19H35NO6S
